US05070087
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy-3-methoxy-α-oxobenzeneacetic acid
A mixture of 0.02 mole of [α,α-bis(4-fluorophenyl)]-4-piperidinemethanol, 0.02 mole of 4-(3-chloropropyloxy)-3-methoxy-α-oxobenzeneacetic acid ethyl ester, 0.06 mole of anhydrous sodium carbonate and 0.4 g of potassium iodide in 150 ml of dimethylformamide was heated on a steambath overnight. The mixture was poured into 1.5 liters of ice-water, and the ethyl ester of the title compound precipitated. The liquid was decanted, and the gum was dissolved in 100 ml of ethanol. A solution of 0.04 mole of sodium bicarbonate in 20 ml of water was added, and the mixture was heated at reflux overnight and then poured into a solution of 1 liter of water and 5 ml of acetic acid. Sodium chloride was added, and a solid precipitated. The solid was collected by filtration and dried to give the title compound.

reactant | [α,α-bis(4-fluorophenyl)]-4-piperidinemethanol | 0.02 mole | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-(3-chloropropyloxy)-3-methoxy-α-oxobenzeneacetic acid ethyl ester | 0.02 mole | C(C)OC(C(C1=CC(=C(C=C1)OCCCCl)OC)=O)=O | C14H17ClO5
reactant | sodium carbonate | 0.06 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
reactant | sodium bicarbonate | 0.04 mole | C([O-])(O)=O.[Na+]
reactant | Sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
solvent | water | 1 liter | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy-3-methoxy-α-oxobenzeneacetic acid | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=C(C=CC=C1OC)C(C(=O)O)=O)(O)C1=CC=C(C=C1)F | C30H31F2NO6
